US06800650B2
3-Aminomethyl-4-p-tolyl-quinolin-2-ylamine
A solution of 2-amino-4-p-tolyl-quinoline-3-carbonitrile (46 mg, 0.177 mmol) in THF (0.5 ml) was added slowly to a suspension of LiAlH4 (67.3 mg, 1.77 mmol) in THF (1 ml) under an atmosphere of argon. The mixture was stirred for 2 h at 40° C. Upon cooling to −20° C., 0.3 ml water added and stirring was continued for 15 min at r.t. The mixture was taken up in ethyl acetate and filtered through dicalite. The filtrate was washed with water and brine, dried (Na2SO4), and evaporated. Purification of the re-dissolved (DMF, 1 ml) residue by automated, preparative HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min) gave 5 mg (11%) of the title compound as a solid.

reactant | 2-amino-4-p-tolyl-quinoline-3-carbonitrile | 0.177 mmol, 46 mg | NC1=NC2=CC=CC=C2C(=C1C#N)C1=CC=C(C=C1)C | C17H13N3
reactant | LiAlH4 | 1.77 mmol, 67.3 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.3 ml | O | H2O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Aminomethyl-4-p-tolyl-quinolin-2-ylamine | 5 mg, 11% | NCC=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)C)N | C17H17N3
